US06538152B1
To a solution of 5-chloro-2-methoxyphenol (488 mg) in acetone (15 ml) were added cesium carbonate (1.20 g) and ethyl bromoacetate (375 μl), and the mixture was stirred for 1 hour at room temperature. The insoluble material was filtered off, and the filtrate was concentrated under reduced pressure. Purification of the residue by flash column chromatography on silica gel (eluent: hexane/ethyl acetate=6/1) gave ethyl 2-(5-chloro-2-methoxyphenoxy)acetate (572 mg).

reactant | 5-chloro-2-methoxyphenol | 488 mg | ClC=1C=CC(=C(C1)O)OC | C7H7ClO2
reactant | cesium carbonate | 1.20 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | ethyl bromoacetate | 375 μl | BrCC(=O)OCC | C4H7BrO2
solvent | acetone | 15 ml | CC(=O)C | C3H6O
product | ethyl 2-(5-chloro-2-methoxyphenoxy)acetate | 572 mg | ClC=1C=CC(=C(OCC(=O)OCC)C1)OC | C11H13ClO4
